US06340682B1
Added to a solution of 65.2 mg (0.23 mmol) of ethyl 3-(3,4-dihydro-6,7-dimethoxy-2-naphthyl)-2-propynoate synthesized by the process described in Referential Example 13 in methanol-tetrahydrofuran (1:1; 1 ml) was 0.5 ml (2.5 mmol) of a 5N aqueous solution of potassium hydroxide, and the mixture was stirred for 30 minutes at room temperature. A saturated saline solution and 0.25 ml (3.0 mmol) of concentrated hydrochloric acid were added to the reaction mixture to conduct extraction with chloroform. An organic layer was dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The resultant concentrated residue was purified by column chromatography on silica gel to obtain 61.4 mg (quantitative) of 3-(3,4-dihydro-6,7-dimethoxy-2-naphthyl)-2-propynoic acid as a colorless amorphous powder.

reactant | ethyl 3-(3,4-dihydro-6,7-dimethoxy-2-naphthyl)-2-propynoate | 0.23 mmol, 65.2 mg | COC=1C=C2CCC(=CC2=CC1OC)C#CC(=O)OCC | C17H18O4
reactant | potassium hydroxide | [OH-].[K+]
reactant | hydrochloric acid | 3.0 mmol, 0.25 ml | Cl | ClH
solvent | methanol tetrahydrofuran | 1 ml | CO.O1CCCC1
product | 3-(3,4-dihydro-6,7-dimethoxy-2-naphthyl)-2-propynoic acid | 61.4 mg | COC=1C=C2CCC(=CC2=CC1OC)C#CC(=O)O | C15H14O4
